US06787671B2
trans-Stilbene (90 mg) was dissolved in DMF (5 mL), and OsO4 (0.06 mL, 2.5% in tBuOH) was added and stirred for 5 min. OXONE (1.23 g) was added in one portion and the reaction had a final volume (7 mL). The reaction was stirred at room temperature for 3 hours or until the solution becomes colorless. This usually marks the completion of the reaction which was verified by TLC or GC. Na2SO3 (540 mg) was added, to reduce the remaining Os(VIII), and stirred for an additional hour or until solution became dark brown/black. EtOAc was added to extract the products and 1N HCl was used to dissolve the salts. The organic extract was washed with 1N HCl (30 mL×3) and brine (30 mL), dried over Na2SO4, and the solvent was removed under reduced pressure to obtain the crude product. Benzoic acid was obtained in 95% yield without the need for further purification.

reactant | trans-Stilbene | 90 mg | C1(=CC=CC=C1)\C=C\C1=CC=CC=C1 | C14H12
reactant | OXONE | 1.23 g | OOS(=O)[O-].[K+]
reactant | Na2SO3 | 540 mg | [O-]S(=O)[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | OsO4 | 0.06 mL | O=[Os](=O)(=O)=O
product | Benzoic acid | 95% yield | C(C1=CC=CC=C1)(=O)O | C7H6O2
